US07897619B2
N-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine:
The compound was synthesized by reducing tert-butyl(S)-1-(5-(3-methyl-1H-indazol-5-yl)oxazol-2-ylamino)-1-oxo-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate with LAH followed with a TFA treatment. LCMS (API-ES) m/z (%): 416 (100%, M++H); 1H NMR (400 MHz, MeOH-d4) δ ppm 6.31 (s, 1H) 6.12 (d, J=8.02 Hz, 2H) 5.91-6.03 (m, 4H) 5.75 (s, 1H) 2.27 (dd, J=7.14, 4.40 Hz, 1H) 2.07-2.15 (m, 1H) 1.97-2.07 (m, 1H) 1.56-1.64 (m, 1H) 1.54 (d, J=6.85 Hz, 1H).

reactant | tert-butyl(S)-1-(5-(3-methyl-1H-indazol-5-yl)oxazol-2-ylamino)-1-oxo-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | CC1=NNC2=CC=C(C=C12)C1=CN=C(O1)NC([C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)=O | C26H26F3N5O4
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(3-methyl-1H-indazol-5-yl)oxazol-2-amine | N[C@H](CNC=1OC(=CN1)C=1C=C2C(=NNC2=CC1)C)CC1=CC=C(C=C1)C(F)(F)F | C21H20F3N5O
